US08404690B2
(2R)-piperazine-2-carboxylic acid.
2CSA (9.492 g, 15.96 mmol) was dissolved in dioxane/water 1:1 (60 ml) and concentrated sodium hydroxide was added until the pH reached 9-10. Di-tert-butyl-dicarbonate (3.755 g, 17.55 mmol) was then added and the mixture was stirred 6 h at room temperature. A white precipitate appeared, the pH dropped to 7 and was brought back to 9 by the addition of concentrated NaOH. 8-quinoline sulfonylchloride (3.63 g, 15.64 mmol) and triethylamine (4.33 ml, 31.28 mmol) were slowly added and the mixture was stirred overnight at room temperature. The solution was made acidic by the addition of HCl 1N and the white precipitate thus obtained was filtered and dried to give the desired compound.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | Di-tert-butyl-dicarbonate | 17.55 mmol, 3.755 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 8-quinoline sulfonylchloride | 15.64 mmol, 3.63 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | triethylamine | 31.28 mmol, 4.33 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | dioxane water | 60 ml | O1CCOCC1.O
product | (2R)-piperazine-2-carboxylic acid | Yield: 93% | N1[C@H](CNCC1)C(=O)O | C5H10N2O2
